US09169270B2
Method B: Synthesis of (±)-4-(5-Chloro-2-ethoxycarbonylmethoxy-phenyl)-2-cyclopropyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (C27H27N2O5ClS, MW=526.13):
To a solution under N2 of (±)-2-bromo-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (100 mg, 0.18 mmol, 1.00 eq.) and 0.5M cyclopropylzinc bromide in THF (0.7 mL, 0.35 mmol, 2.00 eq.) in THF (10 mL), tetrakis(triphenylphosphine) palladium (0) (10.2 mg, 9 μmol was added. The mixture was stirred at 50° C. for 18 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was diluted with DCM (50 mL) and washed with water (2×25 mL). The org. layer was dried over MgSO4 and concentrated in vacuo. The residue was taken up in DMF, filtered, and then purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the title compound.

reactant | (±)-2-bromo-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | 0.18 mmol, 100 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)Br)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C24H22BrClN2O5S
reactant | cyclopropylzinc bromide | 0.5M | [Br-].C1(CC1)[Zn+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium (0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 0.35 mmol, 0.7 mL, 2.00 eq. | C1CCOC1 | C4H8O
product | (±)-4-(5-Chloro-2-ethoxycarbonylmethoxy-phenyl)-2-cyclopropyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)C2CC2)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C27H27ClN2O5S
